US06235778B1
a) 5-Ethyl-3-[2-(methylsulfonyl)phenylsulfonyloxy]phenol
The title compound was prepared in 89% yield from 2-methylsulfonylbenzenesulfonyl chloride and 5-ethylresorcinol in a manner analogous to step a of Eg. 1. 1H-NMR (300 MHz, CDCl3) δ8.43 (d, J=7.8 Hz, 1H), 8.09 (d, J=7.8 Hz, 1H), 7.87 (t, J=7.8 Hz, 1H), 7.73 (t, J=7.7 Hz, 1H), 6.56 (s, 2H), 6.52 (s, 1H), 5.59 (br s, 1H), 3.45 (s, 3H), 2.49 (q, J=7.6 Hz, 2H), 1.09 (t, J=7.6 Hz, 3H).

reactant | 2-methylsulfonylbenzenesulfonyl chloride | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | 5-ethylresorcinol | C(C)C=1C=C(C=C(O)C1)O | C8H10O2
product | 5-Ethyl-3-[2-(methylsulfonyl)phenylsulfonyloxy]phenol | 89% yield | C(C)C=1C=C(C=C(C1)O)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C15H16O6S2
